US05696117
4-(5-Chloro-2-thienylmethyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine
Prepared from 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine by Methods F and G, alkylating with 5-chloro-2-(chloromethyl)thiophene and was isolated in 83% overall yield as a light yellow viscous oil after flash chromatography using 30-50% EtOAc in hexane; IR (CHCl3) 3418, 2943, 1677, 1500, 1400, 1278, 1062, 750 cm-1 ; 1H NMR (CDCl3) δ2.11-2.32 (m, 3H), 3.89 (q, J=5.4 Hz, 2H), 4.78 (dd, J=7.6, 5.5 Hz, 1H), 5.15 (ABq, JAB =16.0 Hz, 2H), 6.74 (d, J=3.7 Hz, 1H), 6.84 (d, J=3.7 Hz, 1H), 7.01-7.08 (m, 4H); MH+ at m/z=324; Anal. Calc'd for C15H14ClNO3S.0.25 H2O: C, 54.88; H, 4.45; N, 4.27; S, 9.77. Found: C, 54.86; H, 4.41; N, 4.04; S, 9.87.

reactant | 2-(2-tert-butyldimethylsiloxyethyl)-3,4-dihydro-3-oxo-2H-1,4-benzoxazine | O([Si](C)(C)C(C)(C)C)CCC1OC2=C(NC1=O)C=CC=C2 | C16H25NO3Si
reactant | 5-chloro-2-(chloromethyl)thiophene | ClC1=CC=C(S1)CCl | C5H4Cl2S
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | hexane | CCCCCC | C6H14
solvent | H2O | O | H2O
product | 4-(5-Chloro-2-thienylmethyl)-3,4-dihydro-2-(2-hydroxyethyl)-3-oxo-2H-1,4-benzoxazine | ClC1=CC=C(S1)CN1C(C(OC2=C1C=CC=C2)CCO)=O | C15H14ClNO3S
